US07615639B2
To a mixture of 2-amino-5-bromo-pyridine o (11.6 mmol, 2.0 g) in ethanol (50 ml) was added 3-bromo-1,1,1-trifluoroacetone (2.1 equiv., 24.3 mmol, 4.64 g) and potassium carbonate (1.5 equiv., 17.3 mmol, 2.40 g). The mixture was heated at reflux for 24 hours and evaporated under reduced pressure. The residue was partitioned between a diluted aqueous sodium bicarbonate solution (100 ml) and dichloromethane (100 ml). The organic layer was dried (MgSO4) and evaporated under reduced pressure. The residue was triturated with diisopropylether (20 ml) and filtered. The filtrate was evaporated under reduced pressure and the residue was triturated with petroleum ether (20 ml). The solids were isolated by filtration affording 6-bromo-2-trifluoromethyl-imidazo[1,2-a]pyridine p (3.0 g, yield=98%).

reactant | 2-amino-5-bromo-pyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 3-bromo-1,1,1-trifluoroacetone | 24.3 mmol, 4.64 g, 2.1 equiv. | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | potassium carbonate | 17.3 mmol, 2.40 g, 1.5 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-bromo-2-trifluoromethyl-imidazo[1,2-a]pyridine | yield=98% | BrC=1C=CC=2N(C1)C=C(N2)C(F)(F)F | C8H4BrF3N2
